US08252793B2
A solution of 1′-(tert-butoxycarbonyl)-[1,3′-bipyrrolidine]-3-carboxylic acid (0.5 g, 1.0 mmol) in anhydrous DMF (20 ml) was treated with HOBT (Hydroxybenzotriazole) (0.21 g, 1.52 mmol), EDCI (1-ethyl-3-(3-dimethylaminopropyl) carbodiimide), hydrochloride (0.24 g, 1.27 mmol) then 2-amino-N-(2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)-N-methylacetamide (0.50 g, 1.0 mmol) and the mixture was stirred at room temperature overnight. The reaction was treated with water (100 mL) and the resulting precipitate was filtered. The aqueous mixture was treated with aqueous saturated sodium bicarbonate (100 mL), extracted with ethyl acetate (200 mL×2). The combined organic layers were dried over magnesium sulfate, filtered and evaporated to give a white solid, 0.62 g that was purified by chromatography (silica gel, dichloromethane and methanol gradient) to afford tert-butyl 3-((2-((2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)(methyl)amino)-2-oxoethyl)carbamoyl)-[1,3′-bipyrrolidine]-1′-carboxylate as a white solid, 0.41 g (53%), that was pure by LC/MS (+ESI) m/z 766 (M+).

reactant | 1′-(tert-butoxycarbonyl)-[1,3′-bipyrrolidine]-3-carboxylic acid | 1.0 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CC(CC1)N1CC(CC1)C(=O)O | C14H24N2O4
reactant | HOBT | 1.52 mmol, 0.21 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2-amino-N-(2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)-N-methylacetamide | 1.0 mmol, 0.50 g | NCC(=O)N(C)C1=C(C(=C(C=C1)Cl)COC1=CC=CC=2N(C(=NC21)OC)CC2=NC=CC=C2)Cl | C24H23Cl2N5O3
reactant | water | 100 mL | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-((2-((2,4-dichloro-3-(((2-methoxy-1-(pyridin-2-ylmethyl)-1H-benzo[d]imidazol-4-yl)oxy)methyl)phenyl)(methyl)amino)-2-oxoethyl)carbamoyl)-[1,3′-bipyrrolidine]-1′-carboxylate | ClC1=C(C=CC(=C1COC1=CC=CC=2N(C(=NC21)OC)CC2=NC=CC=C2)Cl)N(C(CNC(=O)C2CN(CC2)C2CN(CC2)C(=O)OC(C)(C)C)=O)C | C38H45Cl2N7O6
